US07858643B2
To a stirred solution of 3-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-5-[1-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-4-yl]-pyridin-2-ylamine (150 mg, 0.31 mmol) in THF (3 mL) and H2O (2 mL) was added TFA (2 mL) at 0° C., the mixture was stirred and warmed to room temperature, then heated at 50° C. for 5 hours, LCMS checked that the reaction was completed, remove THF, the residue was purified by prep-HPLC to leave 3-(4-{6-amino-5-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl}-pyrazol-1-yl)-propane-1,2-diol (102 mg), yield 74.2%.

reactant | 3-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-5-[1-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-4-yl]-pyridin-2-ylamine | 0.31 mmol, 150 mg | ClC1=C(C(=CC=C1F)Cl)C(C)OC=1C(=NC=C(C1)C=1C=NN(C1)CC1OC(OC1)(C)C)N | C22H23Cl2FN4O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | H2O | 2 mL | O | H2O
product | 3-(4-{6-amino-5-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl}-pyrazol-1-yl)-propane-1,2-diol | 102 mg, yield 74.2% | NC1=C(C=C(C=N1)C=1C=NN(C1)CC(CO)O)OC(C)C1=C(C(=CC=C1Cl)F)Cl | C19H19Cl2FN4O3
